US06252082B1
Methyl 6-methyl-3-nitro-2-oxo-4-(phenylsulphonyl)-1,2-dihydropyridine-1-acetate
5.24 g (14 mmol) of methyl 6-methyl-3-nitro-2-oxo-4-[[(trifluoromethyl)sulphonyl]oxy]-1,2-dihydropyridine-1-acetate in solution in 50 ml of tetrahydrofuran are added dropwise to 2.38 g (14.5 mmol) of sodium benzenesulphinate in suspension in 100 ml of tetrahydrofuran and the mixture is left for 3 hours at room temperature. The solvent is evaporated off, the residue is taken up in 200 ml of dichloromethane and washed with 50 ml of a 1 N aqueous hydrochloric acid solution. The organic phase is recovered, it is dried over magnesium sulphate and evaporated off.

reactant | methyl 6-methyl-3-nitro-2-oxo-4-[[(trifluoromethyl)sulphonyl]oxy]-1,2-dihydropyridine-1-acetate | 14 mmol, 5.24 g | CC1=CC(=C(C(N1CC(=O)OC)=O)[N+](=O)[O-])OS(=O)(=O)C(F)(F)F | C10H9F3N2O8S
reactant | sodium benzenesulphinate | 14.5 mmol, 2.38 g | C1(=CC=CC=C1)S(=O)[O-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | Methyl 6-methyl-3-nitro-2-oxo-4-(phenylsulphonyl)-1,2-dihydropyridine-1-acetate | CC1=CC(=C(C(N1CC(=O)OC)=O)[N+](=O)[O-])S(=O)(=O)C1=CC=CC=C1 | C15H14N2O7S
